US06583299B1
Preparation of N-Acetyl-3-[(4-fluorophenyl)sulfonyl]alanine, Metyl Ester
To a solution of methyl 2-acetamidoacrylate (10.0 g, 69.9 mmol) in 100 mL of methanol, cooled to zero degrees C., was added 4-fluorothiophenol (7.44 mL, 69.9 mmol) followed by triethylamine (9.74 mL, 69.9 mmol). The mixture stirred under a nitrogen atmosphere for 4 hours. The solution was poured into a slurry of Oxone® (86 g, 140 mmol) in H2O (250 mL) and MeOH (125 mL). After stirring at room temperature for 18 hours, the mixture was partitioned between EtOAc (200 mL) and H2O and washed with saturated NaHCO3 (3×100 mL) and brine (1×100 mL). After concentration in vacuo, trituration with diethyl ether afforded the title compound as a white solid (16.3 g, 77%): MS MH+ calcd. for C12H14NO5SF: 304, found 304. HRMS calcd. for C12H14NO5SF: 303.0577, found: 303.0581.

reactant | methyl 2-acetamidoacrylate | 69.9 mmol, 10.0 g | C(C)(=O)NC(C(=O)OC)=C | C6H9NO3
reactant | 4-fluorothiophenol | 69.9 mmol, 7.44 mL | FC1=CC=C(C=C1)S | C6H5FS
reactant | triethylamine | 69.9 mmol, 9.74 mL | C(C)N(CC)CC | C6H15N
reactant | Oxone | OOS(=O)[O-].[K+]
solvent | methanol | 100 mL | CO | CH4O
solvent | H2O | 250 mL | O | H2O
solvent | MeOH | 125 mL | CO | CH4O
product | N-Acetyl-3-[(4-fluorophenyl)sulfonyl]alanine, Metyl Ester | 16.3 g, 77% | C(C)(=O)N[C@@H](CS(=O)(=O)C1=CC=C(C=C1)F)C(=O)OC | C12H14FNO5S
